US09062070B2
To a solution of 3-bromo-2-methyl benzoic acid (35.0 g, 163 mmol) in THF (200 mL) was added Borane THF Complex (1.0 M, 212 mL, 212 mmol). The mixture was allowed to stir for 24 h. TLC showed one single product spot. The reaction was quenched with water. The solvent THF was removed under reduced pressure. The resulting solid was dissolved in ethyl acetate (500 mL), washed with 1N HCl, sodium carbonate, and brine. The organic layer was dried over sodium sulfate and concentrated to afford (3-bromo-2-methylphenyl)methanol.

reactant | 3-bromo-2-methyl benzoic acid | 163 mmol, 35.0 g | BrC=1C(=C(C(=O)O)C=CC1)C | C8H7BrO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (3-bromo-2-methylphenyl)methanol | BrC=1C(=C(C=CC1)CO)C | C8H9BrO
